US05189211
Chlorosulfonic acid (112.6 g) was added dropwise with ice cooling to 2,6-difluorophenol (25 g). The reaction mixture was stirred at room temperature for an hour and poured into ice-water (600 ml), and the separated oily substance was extracted with methylene chloride. The methylene chloride layer was washed successively with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 4-chlorosulfonyl-2,6-difluorophenol (31.5 g).

reactant | Chlorosulfonic acid | 112.6 g | ClS(=O)(=O)O | ClHO3S
reactant | 2,6-difluorophenol | 25 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
product | 4-chlorosulfonyl-2,6-difluorophenol | 31.5 g | ClS(=O)(=O)C1=CC(=C(C(=C1)F)O)F | C6H3ClF2O3S
